US06187774B1
To a mixture of 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole (3.1 g), dimethylformamide (30 ml) and triethylamine (2.5 ml) was dropwise added acetyl chloride (0.72 ml) under ice-cooling. The mixture was stirred as it was for 30 minutes. The reaction mixture was poured into ice water (200 ml). The mixture was extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure to give 3.4 g of an oily substance. The oil was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=1:2) to give 0.60 g of 1-acetyl-3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-1H-indazole (component eluted later (compound A)), and 0.30 g of 2-acetyl-3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole (component eluted first (compound B)). 1-Acetyl-3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-1H-indazole (compound A: m.p. 60-61° C.); 2-Acetyl-3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole (compound B: m.p. 104-106° C.).

reactant | 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole | 3.1 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC=1NN=C2CCCCC12 | C20H27FN4
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.72 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 1-acetyl-3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-1H-indazole | 0.60 g | C(C)(=O)N1N=C(C=2CCCCC12)CCCN1CCN(CC1)C1=CC=C(C=C1)F | C22H29FN4O
